US09085570B2
A solution of 4-(5-methyl-4-(p-tolylthiomethyl)oxazol-2-yl)benzoic acid (500 mg, 1.47 mmol, 1.00 equiv), EDCI (340 mg, 1.78 mmol, 1.21 equiv), 1H-1,2,3-benzotriazol-1-ol (240 mg, 1.78 mmol, 1.21 equiv), pyridin-3-ylmethanamine (190 mg, 1.76 mmol, 1.19 equiv) and triethylamine (450 mg, 4.46 mmol, 3.02 equiv) in N,N-dimethylformamide (10 mL) was stirred overnight at room temperature. The resulting solution was diluted with 20 mL of an ice/water mixture. The precipitate was collected by filtration, washed with 3×10 mL of hexane and 4×10 mL of 66% aqueous methanol to give 0.33 g (52%) of 4-(5-methyl-4-(p-tolylthiomethyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide as a white solid. LC-MS: (ES, m/z): 471 [M+CH3CN+H]+, 430 [M+H]+, 347, 306. 1HNMR (400 MHz, DMSO-d6, ppm) δ 9.22-9.20 (s, 1H), 8.57 (s, 1H), 8.46 (d, 1H), 8.02-7.97 (t, 4H), 7.75-7.73 (d, 1H), 7.38-7.35 (t, 1H), 7.30-7.28 (d, 2H), 7.14-7.13 (d, 2H), 4.52-4.51 (d, 2H), 4.07 (s, 2H), 2.27 (s, 3H), 2.17 (s, 3H).

reactant | 4-(5-methyl-4-(p-tolylthiomethyl)oxazol-2-yl)benzoic acid | 1.47 mmol, 500 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CSC1=CC=C(C=C1)C | C19H17NO3S
reactant | EDCI | 1.78 mmol, 340 mg, 1.21 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1H-1,2,3-benzotriazol-1-ol | 1.78 mmol, 240 mg, 1.21 equiv | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | pyridin-3-ylmethanamine | 1.76 mmol, 190 mg, 1.19 equiv | N1=CC(=CC=C1)CN | C6H8N2
reactant | triethylamine | 4.46 mmol, 450 mg, 3.02 equiv | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(5-methyl-4-(p-tolylthiomethyl)oxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide | 0.33 g, 52% | CC1=C(N=C(O1)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1)CSC1=CC=C(C=C1)C | C25H23N3O2S
